US06828460B2
cis/trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanecarboxylic Acid
Pyridinium dichromate (146 mg) was added to a stirred solution of cis/trans-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methanol (50 mg) in N,N-dimethylformamide (1 ml) at room temperature under argon. After 24 hr, the reaction mixture was partitioned between water (20 ml) and diethyl ether (30 ml). The layers were separated and the aqueous layer was extracted with diethyl ether (2×30 ml). The combined organic extracts were dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:9 v/v) to give the title compound as a cream solid (23 mg, 44%); m/z (ES+) 465 (M+H)+.

reactant | Pyridinium dichromate | 146 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | trans-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methanol | 50 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)CO | C25H46O3Si2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanecarboxylic Acid | 23 mg, 44% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)C(=O)O | C25H44O4Si2
